US04826818
4.46 g (0.05 mole) of L-alanine was taken, and 13.3 g (0.055 mole) of cetyl alcohol was taken as an alcohol. After 200 ml of benzene was added thereto as a solvent, these materials were stirred and mixed. After the addition of 4.9 g (0.05 mole) of sulfuric acid as an acid catalyst, the resulting reaction mixture was heated under reflux. In this case, water was formed with the progress of the esterification reaction and released in the form of an azeotropic mixture with benzene, which was continuously removed from the reaction system. Thus, the reaction was completed in about 7 hours (at an internal temperature of 80.5° C.). After being cooled to room temperature, the reaction mixture was poured into a separating funnel and treated with 300 ml of a mixture of 0.2N NaOH and 6% NaCl solutions. This treatment was repeated three times. Thereafter, the benzene layer was isolated and washed thoroughly with water. After washing with water, the benzene layer was isolated and dried overnight over anhydrous sodium sulfate. Thereafter, the benzene layer was filtered and the resulting benzene solution was evaporated to remove the solvent. Thus, there was obtained 13.5 g (86.1% yield) of purified L-alanine cetyl ester in the form of an oily material.

reactant | L-alanine | 0.05 mole, 4.46 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | cetyl alcohol | 0.055 mole, 13.3 g | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | sulfuric acid | 0.05 mole, 4.9 g | S(O)(O)(=O)=O | H2O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | L-alanine cetyl ester | 13.5 g, 86.1% yield | C(CCCCCCCCCCCCCCC)OC([C@@H](N)C)=O | C19H39NO2
